US04788367
BDAM (2.60 grams) was combined with ether (2 milliliters) and TMAL (1.0 milliliter) as described in Example 4, after which 1.50 grams of (+) dihydrocarvone were added. As in Example 4, a noticeably exotherm was observed. After 3 hours of stirring at room temperature, the reaction mixture was hydrolyzed as in Example 1. After the usual work up and column separation, 1.40 grams of 4-methyl-3-methylene-1-isopropenyl cyclohexane were isolated (95% yield).

reactant | (+) dihydrocarvone | 1.50 grams | C[C@@H]1CC[C@H](CC1=O)C(=C)C | C10H16O
reactant | ether | 2 milliliters | CCOCC | C4H10O
product | 4-methyl-3-methylene-1-isopropenyl cyclohexane | 1.40 grams, 95% yield | CC1C(CC(CC1)C(=C)C)=C | C11H18
